US04507236
31.4 Parts of 8-amino-naphthol-3,6-disulphonic acid are condensed with cyanuric chloride at 0° C. and pH 1 to 2. To the suspension of the primary condensation product is added an aqueous solution of 21 parts of the sodium salt of 2,4-diaminobenzenesulphonic acid and condensation is effected at a pH of 4 to 5. When the condensation is complete, the secondary condensation product is coupled at pH 6 to 6.5 with the diazo compound obtained from 18.7 parts of 2-amino-5-methylbenzenesulphonic acid. The red dye solution is then added to a suspension of 2-(2'-sulphophenylamino)-4,6-difluoro-1,3,5-triazine prepared by condensing 17.3 parts of 2-aminobenzenesulphonic acid with 13.5 parts of 2,4,6-trifluoro-1,3,5-triazine at 0° C. The hydrogen fluoride liberated during the condensation is neutralised continously by adding sodium carbonate solution. When the condensation is complete, the reaction product is isolated in the form of a red powder by evaporating the water under reduced pressure. The dye colours cellulose fibres in fast, bluish red shades.

reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium | [Na] | Na
reactant | 2,4-diaminobenzenesulphonic acid | NC1=C(C=CC(=C1)N)S(=O)(=O)O | C6H8N2O3S
product | 2-amino-5-methylbenzenesulphonic acid | NC1=C(C=C(C=C1)C)S(=O)(=O)O | C7H9NO3S
